US06011028
methyl 1-[2-(1,3-dioxan-2-yl)ethyl]-2-oxocyclohexanecarboxylate
A solution of 2-carbomethoxycyclohexanone in DMF is reacted with 2-(2-bromoethyl)-1,3-dioxane and potassium carbonate by the method of Example 102 to generate the title compound.

reactant | 2-carbomethoxycyclohexanone | C(=O)(OC)C1C(CCCC1)=O | C8H12O3
reactant | 2-(2-bromoethyl)-1,3-dioxane | BrCCC1OCCCO1 | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 1-[2-(1,3-dioxan-2-yl)ethyl]-2-oxocyclohexanecarboxylate | O1C(OCCC1)CCC1(C(CCCC1)=O)C(=O)OC | C14H22O5
